US06894061B2
N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide
The title compound was prepared from 2,4-dimethoxybenzenesulfonyl chloride (379 mg, 1.6 mmol), 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine (400 mg, 1.6 mmol), and triethylamine (246 μL, 1.7 mmol) according to the procedure and in the same manner as described in Example 105, step c resulting in the isolation of 480 mg (67%) of a white solid;

reactant | 2,4-dimethoxybenzenesulfonyl chloride | 1.6 mmol, 379 mg | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethylamine | 1.6 mmol, 400 mg | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)N)F | C14H13ClFN
reactant | triethylamine | 1.7 mmol, 246 μL | C(C)N(CC)CC | C6H15N
product | N-[1-(4′-Chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=C(C=C(C=C1)OC)OC)F | C22H21ClFNO4S
